US05498704
90 g (0.5 mol) of glucose were dissolved in 400 ml of absolute hexamethylphosphoric triamide at 20° to 30° C.; 20 g (0.75 mol) of sodium hydride were added in portions. When the evolution of hydrogen was complete, 284 g (0.75 mol) of didecyl sulfate were added and the reaction mixture was stirred for 15 hours at 20° to 25° C. Excess sodium hydride was destroyed by means of methanol, and the solvent was removed under a high vacuum (0.05 mbar) at 110° C. The residue was taken up in 100 ml of water/methanol (3:7 parts by weight) and chromatographed on an RP18 flash column. 99.2 g of decyl glucoside (62.5% yield) with an alpha/beta isomer ratio of 1:2 were obtained as an analytically pure product.

reactant | glucose | 0.5 mol, 90 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | sodium hydride | 0.75 mol, 20 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | didecyl sulfate | 0.75 mol, 284 g | S(=O)(=O)(OCCCCCCCCCC)OCCCCCCCCCC | C20H42O4S
solvent | hexamethylphosphoric triamide | 400 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | decyl glucoside | 99.2 g, 62.5% yield | CCCCCCCCCCOC1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O | C16H32O6
